US07423037B2
2-(4-benzyl-morpholin-2-yl)-1,3-bis-(2-methoxy-phenyl)-propan-2-ol (78)
Add a solution of 4-benzyl-morpholine-2-carboxylic acid ethyl ester (1.12 g, 4.49 mmol) in tetrahydrofuran (5 mL) to a stirred solution of 2-methoxybenzylmagnesium chloride (54 mL, 0.25M solution in tetrahydrofuran, commercially available from Rieke Metals) at −10° C. under nitrogen atmosphere. After 1 hour, add a saturated aqueous solution of sodium bicarbonate and extract with diethyl ether. Combine the organic layers and extract with brine, dry over magnesium sulfate, filter, and concentrate under reduced pressure to give a residue to be taken forward without further purification. MW 447.58; C28H33NO4; LCMS (12 minute method):m/z)=448.2 [M+H]+) RT 4.8 min.

reactant | 4-benzyl-morpholine-2-carboxylic acid ethyl ester | 4.49 mmol, 1.12 g | C(C)OC(=O)C1CN(CCO1)CC1=CC=CC=C1 | C14H19NO3
reactant | 2-methoxybenzylmagnesium chloride | COC1=C(C[Mg]Cl)C=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(4-benzyl-morpholin-2-yl)-1,3-bis-(2-methoxy-phenyl)-propan-2-ol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(CC1=C(C=CC=C1)OC)O | C28H33NO4
